US07235574B2
iii) 1-[4-(4-{2-[2-(4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-but-3-enyl]-1H-[1,2,3]triazole
13 mg (0.50 mmol) 95% sodium hydride were given to a solution of 108 mg (0.50 mmol) 4-(4-[1,2,3]triazol-1-yl-but-1-enyl)-phenol in 4.0 ml DMF and stirred for 15 min. 173 mg (0.50 mmol) 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. overnight. After addition of 10 ml water the resulting precipitate was collected, washed with water (2×10 ml), methanol (2×10 ml), diethyl ether and dried in vacuum at 40° C. to yield 225 mg (86%) of product.

reactant | sodium hydride | 0.50 mmol, 13 mg | [H-].[Na+]
reactant | 4-(4-[1,2,3]triazol-1-yl-but-1-enyl)-phenol | 0.50 mmol, 108 mg | N1(N=NC=C1)CCC=CC1=CC=C(C=C1)O | C12H13N3O
reactant | 4-chloromethyl-2-[2-(4-pentafluorosulfanyl-phenyl)-vinyl]-oxazole | 0.50 mmol, 173 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(F)(F)(F)(F)F | C12H9ClF5NOS
reactant | water | 10 ml | O | H2O
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-{2-[2-(4-Pentafluorosulfanyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-but-3-enyl]-1H-[1,2,3]triazole | 225 mg, 86% | FS(C1=CC=C(C=C1)C=CC=1OC=C(N1)COC1=CC=C(C=C1)C=CCCN1N=NC=C1)(F)(F)(F)F | C24H21F5N4O2S
